US04618677
The procedure described in Example 2 was followed, using 1.4 g of 4-n-butylphenyl isocyanate, 3.0 g of 3-[4-(4-chlorophenethyl)piperazin-1-yl]propanethiol dihydrochloride, 0.8 g of triethylamine and 50 ml of methylene chloride, to give 1.1 g (25% of theory) of N-(4-n-butylphenyl)-S-{3-[4-(4-chlorophenethyl)piperazin-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 252°-254° C.

reactant | 4-n-butylphenyl isocyanate | 1.4 g | C(CCC)C1=CC=C(C=C1)N=C=O | C11H13NO
reactant | 3-[4-(4-chlorophenethyl)piperazin-1-yl]propanethiol dihydrochloride | 3.0 g | Cl.Cl.ClC1=CC=C(CCN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.8 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-n-butylphenyl)-S-{3-[4-(4-chlorophenethyl)piperazin-yl]propyl}thiocarbamate dihydrochloride | 1.1 g, 25% | Cl.Cl.C(CCC)C1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CCC1=CC=C(C=C1)Cl | InChI=1S/C26H38ClN3OS.2ClH/c1-2-3-5-22-8-12-25(13-9-22)28-26(31)32-21-4-15-29-17-19-30(20-18-29)16-14-23-6-10-24(27)11-7-23;;/h6-13,28,31-32H,2-5,14-21H2,1H3;2*1H
